US09227978B2
tert-butyl 3-(4-(4,5-Dichloro-2-methoxybenzylcarbamoyl)piperidin-1-yl)azetidine-1-carboxylate
A mixture of N-(4,5-dichloro-2-methoxybenzyl)piperidine-4-carboxamide (750 mg, 2.37 mmol), tert-butyl 3-oxoazetidine-1-carboxylate (607 mg, 3.55 mmol), AcOH (1 mL) and MeOH (5 mL) was stirred at reflux for 2 h. To this mixture, NaBH3(CN) (0.74 g, 11.85 mmol) was added and the resulting mixture was stirred at 60° C. for 16 h. The mixture was allowed to cool to room temperature and partitioned between NH4Cl aqueous solution and ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (220 mg, 18% yield). ESI-MS m/z: 472.3[M+H]+.

reactant | N-(4,5-dichloro-2-methoxybenzyl)piperidine-4-carboxamide | 2.37 mmol, 750 mg | ClC1=CC(=C(CNC(=O)C2CCNCC2)C=C1Cl)OC | C14H18Cl2N2O2
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 3.55 mmol, 607 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
solvent | MeOH | 5 mL | CO | CH4O
product | tert-butyl 3-(4-(4,5-Dichloro-2-methoxybenzylcarbamoyl)piperidin-1-yl)azetidine-1-carboxylate | 220 mg, 18% yield | ClC1=CC(=C(CNC(=O)C2CCN(CC2)C2CN(C2)C(=O)OC(C)(C)C)C=C1Cl)OC | C22H31Cl2N3O4
